US07977481B2
4-(5-Bromothiophen-2-yl)-pyrimidine thiol (2.5 g, 9.15 mmol) was completely dissolved in 14.8 mL DI water and 2.4 mL 4 N NaOH. The mixture was diluted with EtOH (25 mL) and MeI (0.598 mL, 9.61 mmol) was added. The reaction was stirred 18 hours. The yellow solids were collected by filtration, washed with EtOH and dried to afford 4-(5-Bromothiophen-2-yl)-2-methylsulfanyl-pyrimidine (2.32 g, 88.6%) as a pale yellow solid. MS: m/z 287 (M+H+).

reactant | 4-(5-Bromothiophen-2-yl)-pyrimidine thiol | 9.15 mmol, 2.5 g | BrC1=CC=C(S1)C1=NC(=NC=C1)S | C8H5BrN2S2
reactant | MeI | 9.61 mmol, 0.598 mL | CI | CH3I
solvent | DI water | 14.8 mL | O | H2O
solvent | NaOH | 4 N, 2.4 mL | [OH-].[Na+]
solvent | EtOH | 25 mL | CCO | C2H6O
product | 4-(5-Bromothiophen-2-yl)-2-methylsulfanyl-pyrimidine | 2.32 g, 88.6% | BrC1=CC=C(S1)C1=NC(=NC=C1)SC | C9H7BrN2S2
